US05817693
(1RS,3 RS)-3-(2-Hydroxy-4-methoxyphenyl)-1-(3,4-methylenedioxiphenyl)-5-(prop-1-yloxy)indane
A solution of (1RS,2SR,3RS)-3-[2-(methoxymethoxy)-4-methoxyphenyl]-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylic acid (0.2 g, 0.39 mmol) in dichloromethane (4ml) and pyridine (28 μl, 1.6 mmol) was cooled to 0 ° C. under argon. To this solution was added thionyl chloride (60 μl, 0.8 mmol). The mixture was allowed to warm to ambient temperature over 20 min. and the volatiles removed in vacuo. The residue was redissolved in toluene and evaporated in vacuo (twice). The residue was dissolved in dichloromethane (4 ml) and triethylamine (250 μl) added. To this solution at room temperature under argon was added 2-mercaptopyridine-N-oxide (120 mg, 0.8 mmol) dissolved in dichloromethane (1 ml). After stirring for 20 min at room termperature t-butylthiol (450 μl, 4 mmol) was added and the mixture irradiated for 20 min (150 watt spotlight). The volatiles were removed in vacuo and the product partitioned between ethyl acetate and 3 M-aq. HCl. The organic extract was washed with water, sat. aq. NaHCO3 solution and finally brine. After drying (MgSO4 anhydrous), the product was filtered and evaporated. Purification by column chromatography gave the title compound (0.075 g, 41%).

reactant | (1RS,2SR,3RS)-3-[2-(methoxymethoxy)-4-methoxyphenyl]-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylic acid | 0.39 mmol, 0.2 g | COCOC1=C(C=CC(=C1)OC)C1C(C(C2=CC=C(C=C12)OCCC)C1=CC2=C(C=C1)OCO2)C(=O)O | C29H30O8
reactant | pyridine | 1.6 mmol, 28 μl | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 0.8 mmol, 60 μl | S(=O)(Cl)Cl | Cl2OS
reactant | 2-mercaptopyridine-N-oxide | 0.8 mmol, 120 mg | SC1=[N+](C=CC=C1)[O-] | C5H5NOS
solvent | dichloromethane | 4ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | (1RS,3 RS)-3-(2-Hydroxy-4-methoxyphenyl)-1-(3,4-methylenedioxiphenyl)-5-(prop-1-yloxy)indane | 0.075 g, 41% | OC1=C(C=CC(=C1)OC)C1CC(C2=CC=C(C=C12)OCCC)C1=CC2=C(C=C1)OCO2 | C26H26O5
